US05047557
Preparation of (S)-1-tridecen-4-ol
A solution of 1.25 mmol of the titanium compound of Example 2b in 60 ml of diethyl ether is cooled to -74° C. and 0.19 ml (0.1 mmol) of freshly distilled capraldehyde is added. The slightly yellow, clear solution is stirred for a further 2 hours at -74° C. and 5 ml of a 5N H2O/THF solution are added and the mixture is warmed to RT, stirred for a further hour at this temperature, filtered with suction and evaporated on a rotary evaporator. The crude product (1.13 g of clear, colourless oil) is flash-chromatographed (60 g of silica gel, 35 cm long, cross-section 2 cm, 5 ml/fraction, 0.4 bar, 10:1 toluene/ethanol) and is then distilled in a bulb tube (b.p.: ≈120-130 at 0.104 mbar). 0.141 g of product is obtained. Yield: 71%, ee: 95%.

reactant | capraldehyde | C(=O)CCCCCCCCC | C10H20O
reactant | H2O THF | 5N | O.C1CCOC1
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
catalyst | titanium | 1.25 mmol | [Ti] | Ti
product | (S)-1-tridecen-4-ol | 0.141 g, Yield: 71% | C=CC[C@H](CCCCCCCCC)O | C13H26O
